US06867185B2
A solution of 30 mg (0.038 mmol) of (1S,4R,6S,13S,17R)-7-cis-[4-Cyclopropanesulfonylaminocarbonyl-17-(7-methoxy-2-phenylquinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octadec-7-en-13-yl]carbamic acid tert-butyl ester, Compound 7, Example 7, was dissolved in 15 mL of MeOH and then evacuated via vacuum and degassed repeatedly under Ar. To this solution was added 15 mg of 20% Pd(OH)2/C and the mixture evacuated and put under 1 atmosphere of H2 gas three times and finally allowed to stir under 1 atmosphere of H2 over 45 minutes. The reaction contents were then then evacuated and put under Argon, filtered over celite and the resulting crude residue purified over preparative HPLC (column: Xterra C18 S5 30×75 mm, 35% to 80% Solvent B/A for 28 min gradient, hold time 3 min; where Solvent A is 10% MeOH/90% H2O with 0.1% TFA, Solvent B is 90% MeOH/10% H2O with 0.1% TFA and flow rate is 40 ml/min). Compound 13, Example 12 eluted first (8.8 mg, 29.3%), followed by 15 mg of mixed fractions containing Compound 13 and an unidentified product: 1H NMR (methanol-d4) δ 0.84-2.08 (m, 26H), 2.51-2.69 (m, 1H), 2.74-2.78 (m, 1H), 2.91-3.01 (m, 1H), 3.96 (s, 3H), 4.04-4.09 (m, 1H), 4.17 (d, J=11 Hz, 1H), 4.72 (t, J=8 Hz, 1H), 4.97 (d, J=12 Hz, 1H), 5.64 m, 1H), 7.13 (dd, 9, 1.6 Hz, 1H), 7.32 (s, 1H), 7.40 (d, J=1.6 Hz, 1H), 7.53-7.62 (m, 3H), 8.02-8.05 (m, 2H), 8.15 (d, J=9 Hz, 1H). LC-MS m/e 790 (retention time: 2.55, method D, except gradient time increased from 2 to 3 min). Step i of Method B) To a solution of 400 mg (0.584 mmol) of (1S,4R,6S,13S,17R)-7-cis-13-tert-butoxycarbonylamino-17-(7-methoxy-2-phenylquinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octa-dec-7-ene-4-carboxylic acid and 1.90 g (11.7 mmol) of potassium diazodicarboxylate in 20 mL of MeOH, was added a solution of 1.34 mL (22.4 mmol) of glacial AcOH in 19 mL of MeOH slowly dropwise via syringe pump over 5 h, followed by stirring for an additional 6 h. To this mixture was added an additional 380 mg of potassium diazodicarboxylate (prepared as in Org. React. 1991, 40, p.91), followed by 400 μL of glacial AcOH in 4 mL of MeOH via syringe pump over 70 min. The mixture was stirred overnite, diluted with 200 mL of Et20, filtered and concentrated in vacuo. The residue was chromatographed over 20 g of SiO2 (eluted with 5% MeOH/CH2Cl2) to afford 450 mg of crude which was dissolved in 12 mL of MeOH and injected six times (6×2 mL injections) onto a preparative HPLC column: Xterra C18 30×100 mm S5, 30% to 85% Solvent B/A for 25 min gradient, hold time 5 min; where Solvent A is 10% MeOH/90% H2O with 0.1% TFA, Solvent B is 90% MeOH/10% H2O with 0.1% TFA and flow rate is 40 ml/min). The pH of the combined fractions was adjusted to neutral using 6N aqueous NaOH solution and the MeOH removed in vacuo. The solution was adjusted to pH 4 using 3N aqueous HCl solution, and repeatedly extracted with EtOAC. The combined extracts were dried (MgSO4) and concentrated to afford 360 mg, (90%) of (1S,4R,6R,13S,17R)-13-tert-Butoxycarbonylamino-17-(7-methoxy-2-phenyl-quinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octadecane-4-carboxylic acid: 1H NMR (methanol-d4) δ 1.10 (s, 9H), 1.34 (m, 12H), 1.68 (m, 1H), 1.84 (m, 1H), 2.05 (s, 1H), 2.58 (m, 1H), 2.71 (m, 1H) 3.94 (s, 3H), 4.05 (dd, J=11.4, 2.9 Hz, 1H), 4.16 (dd, J=11.8, 2.9 Hz, 1H), 4.67 (t, J=8.1 Hz, 1H), 4.90 (m, 1H), 5.61 (s, 1H), 7.10 (dd, J=9, 2 Hz, 1H), 7.29 (s, 1H), 7.38 (d, J=2 Hz, 1H), 7.55 (m, 3H), 8.03 (d, J=6.7 Hz, 2H), 8.13 (d, J=9 Hz, 1H). LC-MS m/e 687 (retention time: 2.84, method D, except gradient time increased from 2 to 4 min). LC-MS m/e 687 (retention time: 2.84, method D, except gradient time increased from 2 to 4 min). Step ii/12j-Method B Preparation of Compound 13, Example 12, Preparation of (1S,4R,6R,13S,17R)-[4-Cyclopropanesulfonylaminocarbonyl-17-(7-methoxy-2-phenylquinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octadec-13-yl]-carbamic acid tert-butyl ester, Compound 13, Example 12.

reactant | (1S,4R,6S,13S,17R)-7-cis-[4-Cyclopropanesulfonylaminocarbonyl-17-(7-methoxy-2-phenylquinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octadec-7-en-13-yl]carbamic acid tert-butyl ester | 0.038 mmol, 30 mg | C(C)(C)(C)OC(N[C@H]1CCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)=O)C(=O)NS(=O)(=O)C1CC1)=O | C41H49N5O9S
reactant | (1S,4R,6S,13S,17R)-7-cis-13-tert-butoxycarbonylamino-17-(7-methoxy-2-phenylquinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octa-dec-7-ene-4-carboxylic acid | 0.584 mmol, 400 mg | C(C)(C)(C)OC(=O)N[C@H]1CCCC\C=C/[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)=O)C(=O)O | C38H44N4O8
reactant | potassium diazodicarboxylate | 11.7 mmol, 1.90 g | [N+](=[N-])(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | potassium diazodicarboxylate | 380 mg | [N+](=[N-])(C(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaOH | 6N | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 19 mL | CO | CH4O
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 12 mL | CO | CH4O
solvent | AcOH | 400 μL | CC(=O)O | C2H4O2
solvent | AcOH | 22.4 mmol, 1.34 mL | CC(=O)O | C2H4O2
product | (1S,4R,6R,13S,17R)-13-tert-Butoxycarbonylamino-17-(7-methoxy-2-phenyl-quinolin-4-yloxy)-2,14-dioxo-3,15-diazatricyclo[13.3.0.04,6]octadecane-4-carboxylic acid | 90% | C(C)(C)(C)OC(=O)N[C@H]1CCCCCC[C@@H]2C[C@]2(NC([C@@H]2C[C@H](CN2C1=O)OC1=CC(=NC2=CC(=CC=C12)OC)C1=CC=CC=C1)=O)C(=O)O | C38H46N4O8
